US04091011
b. 2,4-Dichloro-3,5-dinitrobenzamide
A mixture of 74.9 g. (0.25 mole) of 2,4-dichloro-3,5-dinitrobenzoyl chloride and 200 ml. of concentrated ammonia is placed in a mortar and ground with a pestle for ten minutes. The mixture stands for 2 hours at room temperature. The yellow precipitate is removed by filtration and washed with water. There is obtained 67.7 gm. (97%) of yellow needles melting at 263°-265°. Recrystallization of 1.00 g. of material from ethanol yields 390 mg. of yellow needles melting at 262°-263°.

reactant | 2,4-dichloro-3,5-dinitrobenzoyl chloride | 0.25 mole | ClC1=C(C(=O)Cl)C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-] | C7HCl3N2O5
reactant | ammonia | N | H3N
product | 2,4-Dichloro-3,5-dinitrobenzamide | ClC1=C(C(=O)N)C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-] | C7H3Cl2N3O5
